US06486153B1
(a) 1-tert-Butoxycarbonyl-2-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole
To a degassed solution of 1-tert-butoxycarbonyl-2-bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole (2.0 g), 3,5-bis(trifluoromethyl)phenylboronic acid (2.43 g) and Na2CO3 (aq., 2N, 8.8 ml) in tetrahydrofuran was added tetrakis(triphenylphosphine)-palladium(0) (0.55 g). The resulting solution was then warmed to reflux for 18 h, cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over MgSO4, filtered and the solvent removed under reduced pressure. The residue was purified by flash chromatography (SiO2; 3-5% ethyl acetate/hexanes) to afford the title compound (2.1 g). 1H NMR (CDCl3) δ1.23 (s, 9H), 1.45-1.71 (br m, 6H), 2.82 (t, 2H, J=7.2 Hz), 3.37 (m, 1H), 3.61 (m, 2H), 3.98 (m, 1H), 4.50 (t, 1H, J=3.5 Hz), 7.30 (t, 1H, J=7.0 Hz), 7.41 (t, 1H, J=7.0 Hz), 7.60 (d, 1H, J=10.0 Hz), 7.89 (s, 1H), 7.91 (s, 2H), 8.27 (d, 1H, J=10.0 Hz).

reactant | 1-tert-butoxycarbonyl-2-bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 2.0 g | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCOC1OCCCC1)Br | C20H26BrNO4
reactant | 3,5-bis(trifluoromethyl)phenylboronic acid | 2.43 g | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | Na2CO3 | 2N, 8.8 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.55 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-tert-Butoxycarbonyl-2-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 2.1 g | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCOC1OCCCC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C28H29F6NO4
